US08859592B2
To a solution of (7-bromo-2-methyl-benzo[d]oxazol-4-yl) methanol (5.16 g) in dichloromethane (300 ml) was added manganese(IV) oxide (59.9 g) and the suspension stirred at ambient temperature for 16 hours. The reaction mixture was filtered through a plug of silica gel and the filtrate concentrated to give 7-bromo-2-methyl-benzo[d]oxazole-4-carbaldehyde (3.23 g). LC-MS: RT=1.83 min, [M+H]+=240.0/242.0, using the following method:

reactant | (7-bromo-2-methyl-benzo[d]oxazol-4-yl) methanol | 5.16 g | BrC1=CC=C(C=2N=C(OC21)C)CO | C9H8BrNO2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
catalyst | manganese(IV) oxide | 59.9 g | [O-2].[Mn+4].[O-2]
product | 7-bromo-2-methyl-benzo[d]oxazole-4-carbaldehyde | 3.23 g | BrC=1C=CC(=C2N=C(OC21)C)C=O | C9H6BrNO2
